US09061030B2
To a stirring suspension of imidazole (1.2 eq) in DMF was added sodium hydride (2 eq). The reaction generated gas and was stirred for 10 minutes. Then 2-(5-bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine (I-16) was added. The reaction was stirred at 100° C. for 12 hr. The reaction was quenched with brine, extracted with methylene chloride, dried over sodium sulfate and concentrated. The mixture was purified by SiO2 chromatography to afford 2-(1-(2-fluorobenzyl)-5-(1H-imidazol-1-yl)-1H-1,2,4-triazol-3-yl)pyridine as a solid in 26.7% yield.

reactant | imidazole | 1.2 eq | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 2 eq | [H-].[Na+]
reactant | 2-(5-bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine | BrC1=NC(=NN1CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C14H10BrFN4
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(1-(2-fluorobenzyl)-5-(1H-imidazol-1-yl)-1H-1,2,4-triazol-3-yl)pyridine | 26.7% yield | FC1=C(CN2N=C(N=C2N2C=NC=C2)C2=NC=CC=C2)C=CC=C1 | C17H13FN6
